Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
___: TAVR

 
History of Present Illness:
Mr. ___ is a ___ male with PMH significant for permanent
AF s/p PPM ___ for sick sinus disease, HFrEF (EF ___ with
recent decrease in LV dysfunction, progressive AS now severe who
presents with recurrent syncope.

Patient was admitted on ___  due to syncope. At that time,
patient said had no recollection of the event and he did have
loss of bowel/bladder function at the time. There was no note
made of any seizure-like activity. Evaluated by ___ and BP noted
to be low, furosemide and lisinopril not given at the direction
of ___. Duration of LOC approximately 5 minutes. During said
admission his pacemaker was interrogated and revealed no obvious
precipitating arrhythmias at time of syncope. He remained
asymptomatic throughout his stay with no signs of volume
overload. Orthostatics were negative and carotid studies showed
no prominent stenosis. He underwent coronary angiogram on ___
with only moderate narrowing of mid LAD that was not intervened
upon. The consideration was that the syncope was secondary to
progressive AS, therefore underwent expedited TAVR work-up and
was discharged with a plan to follow-up with structural team as
an outpatient.

Today he returned to the emergency room after having had 2 (? 
Possibly 3) episodes of syncope.  The first episode occurred in
the parking lot of a restaurant after getting out of his car and
walking few steps.  The second episode occurred at home when he
was ambulating inside the house and he tried to reach the couch
to break his fall.  Since his discharge he is also noted more
exertional shortness of breath when he tried walk.  He does not
complain of any exertional chest pressure.  Denies any
palpitations.

In the ED:
Initial VS: HR: 76, BP:113/76, RR: 18, O2Sat: 95% RA 
EKG: paced rhythm with underlying atrial fibrillation
Labs notable for: Trop <0.01, Na: 133, K 4.9, Cl 98, HCO3 24, 
BUN
27, Cr 1.1, Glucose 106. WBC 4.6, Hb 8.6, Hct 26.3, Plt 172, ___
19.5, PTT32.6, INR 1.8. Unremarkable UA

On the floor the patient and his family endorses the above
history. Describes 3 episodes of loss of consciousness with
minimal exertion associated to shortness of breath. Otherwise
denies chest pain or palpitations. Denies dizziness or
lightheadedness currently.

 
Past Medical History:
CARDIAC HISTORY:
Vascular disease
TIA ___ when off warfarin for cataract surgery) 
Moderate-severe aortic stenosis 
Permanent atrial fibrillation 
Acute on chronic combined systolic and diastolic congestive 
heart
failure 

OTHER MEDICAL HISTORY: 
History of stroke 
Osteoarthrosis
Squamous cell carcinoma of nose, scalp/neck   
DJD (degenerative joint disease) of hip 
S/P total hip arthroplasty 
B12 deficiency 
Vascular disease 
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, 
syncope or sudden cardiac death. All other family history 
non-contributory.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
================================  
24 HR Data (last updated ___ @ ___)
    Temp: 97.7 (Tm 97.7), BP: 120/68, HR: 88, RR: 20, O2 sat:
97%, O2 delivery: RA, Wt: 182.54 lb/82.8 kg  
GENERAL: Well developed, well nourished man in NAD. Oriented x3.
Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: JVP not elevated.  
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. Regular rate and rhythm. Normal S1, blunted S2. Late
peaking systolic ejection murmur best heard at the upper sternal
border. No rubs, or gallops. no thrills or lifts.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.

DISCHARGE PHYSICAL EXAMINATION
===============================
24 HR Data (last updated ___ @ 1521)
    Temp: 97.5 (Tm 98.4), BP: 88/50 (88-128/49-83), HR: 63 
(60-71), RR: 18, O2 sat: 100% (96-100), O2 delivery: ra  
Fluid Balance (last updated ___ @ 848) 
  Last 8 hours No data found
  Last 24 hours  Total cumulative -1120ml
    IN: Total 480ml, PO Amt 480ml
    OUT:  Total 1600ml, Urine Amt 1600ml  
GENERAL: Well developed, well nourished man in NAD. Oriented x3.
Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: JVP not elevated.  
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. Regular rate and rhythm. Normal S1, blunted S2. No 
murmurs, rubs, or gallops. no thrills or lifts.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric. 

 
Pertinent Results:
ADMISSION LABS
===============
___ 01:35PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 01:35PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 10:40AM   GLUCOSE-106* UREA N-27* CREAT-1.1 SODIUM-133* 
POTASSIUM-4.9 CHLORIDE-98 TOTAL CO2-24 ANION GAP-11
___ 10:40AM   cTropnT-<0.01
___ 10:40AM   WBC-4.6 RBC-2.52* HGB-8.6* HCT-26.3* MCV-104* 
MCH-34.1* MCHC-32.7 RDW-15.0 RDWSD-57.3*
___ 10:40AM   NEUTS-57.8 ___ MONOS-10.3 EOS-3.0 
BASOS-0.9 IM ___ AbsNeut-2.68 AbsLymp-1.27 AbsMono-0.48 
AbsEos-0.14 AbsBaso-0.04
___ 10:40AM   PLT COUNT-172
___ 10:40AM   ___ PTT-32.6 ___

DISCHARGE LABS
=================
___ 06:40AM BLOOD WBC-4.5 RBC-2.32* Hgb-7.7* Hct-24.2* 
MCV-104* MCH-33.2* MCHC-31.8* RDW-14.9 RDWSD-56.3* Plt ___
___ 06:40AM BLOOD Plt ___
___ 06:40AM BLOOD ___ PTT-30.9 ___
___ 06:40AM BLOOD ___ 06:40AM BLOOD Glucose-92 UreaN-22* Creat-1.1 Na-139 
K-3.8 Cl-103 HCO3-24 AnGap-12
___ 06:40AM BLOOD Calcium-8.8 Phos-3.8 Mg-1.8

IMAGING / REPORTS
==================
TAVR ___:
• Severe aortic stenosis
• Reduced left ventricular ejection fraction
• Successful transcatheter aortic valve replacement

TTE ___:
Well-seated, normally functioning ___ 3 aortic bioprosthesis 
with trace
paravalvular leak. Moderately dilated left ventricle with 
moderate to severe left ventricular regional dysfunction. Mild 
right ventricular hypokinesis. Moderate mitral regurgitation. 
Mild pulmonary hypertension.
 
Brief Hospital Course:
====================
PATIENT SUMMARY:
====================
Mr. ___ is a ___ male with PMH significant for permanent
AF s/p PPM ___ for sick sinus disease, HFrEF (EF ___. He 
was recently admitted for progressive AS and discharge with plan 
for TAVR. However, he presented with recurrent syncope with 
minimal exertion and therefore was admitted for expedited workup 
and in-patient TAVR. He underwent TAVR on ___ without any 
acute complications.

====================
ACUTE ISSUES:
====================
# Severe aortic stenosis s/p TAVR
Patient has a known history of aortic stenosis. He was recently 
admitted for syncope in which his pacemaker was interrogated and 
revealed no obvious precipitating arrhythmias at the time of 
syncope. Orthostatics were negative and carotid studies showed 
no prominent stenosis. He underwent coronary angiogram on ___ 
with only moderate narrowing of mid LAD and was not intervened 
upon. He remained asymptomatic throughout his previous stay with 
no signs of volume overload. He was discharged with a plan to 
follow-up with the structural heart team for outpatient TAVR. 
Nonetheless, patient with multiple episodes of syncope with 
minimal exertion and progressive
shortness of breath and therefore he was re-admitted for 
expedited workup and in-patient TAVR. On ___ underwent 29mm 
___ 3 TAVR with no complications. He was discharged home with 
close follow up.

# Heart Failure with reduced ejection fraction (EF ___
Mr. ___ has history of HFrEF with EF of ___ per TTE on 
___. Likely etiology was considered to be worsening aortic 
stenosis. On previous admission his Lasix was held as he was not 
overloaded. Upon readmission the patient remained euvolemic with 
borderline low BPs. His diuretic and afterload reducing 
medications were held. Throughout his admission patient remained 
asymptomatic and euvolemic. Upon discharge patient asymptomatic 
and bormal BP so he will be discharged on optimized GDMT.

# Permanent atrial fibrillation
He has a pacemaker placed in ___. CHADsVASc score of 5. On 
home warfarin. Appropriately rate controlled throughout 
admission and will be discharged on home warfarin regimen.

====================
CHRONIC ISSUES:
====================
#Macrocytic anemia - unclear etiology
Noted on previous admission. Workup with B12, folate, and 
ferritin WNL. TIBC and transferrin were only slightly low. No 
obvious source of bleeding on this admission. Discharge Hgb was 
7.7. 

#Osteoarthrosis 
- Tylenol for pain as needed

#Vascular disease 
- continued ASA and atorvastatin

====================
TRANSITIONAL ISSUES:
====================
[ ] Consider repeat TTE in ___ weeks to assess LV function and 
bioprosthesis after intervention 
[ ] If in line with goals of care, consider resynchronization 
therapy given LBBB and HFrEF
[ ] Follow BP to uptitrate carvedilol and entresto as 
appropriate
[ ] Follow weight to uptitrate torsemide as needed
[ ] Monito INR and adjust warfarin dose as appropriate
[ ] Consider outpatient workup for anemia

- Follow-up appointments: PCP and ___
- Post-Discharge Follow-up Labs Needed: INR 
- Discharge weight: 79.2 kg - 174.6 lb 
- Discharge creatinine: 1.1
- Discharge hemoglobin: 7.7

# CODE STATUS: presumed full code 
# CONTACT: wife, ___, ___ 

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 80 mg PO QPM 
2. Lisinopril 2.5 mg PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. Tacrolimus 0.1 % topical DAILY:PRN in both eyes as needed 
5. Furosemide 40 mg PO DAILY 
6. Aspirin 81 mg PO DAILY 
7. Warfarin 5 mg PO DAILY16 

 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild/Fever  
2.  CARVedilol 3.125 mg PO BID 
RX *carvedilol 3.125 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
3.  Sacubitril-Valsartan (24mg-26mg) 1 TAB PO BID 
RX *sacubitril-valsartan [Entresto] 24 mg-26 mg 1 tablet(s) by 
mouth twice a day Disp #*60 Tablet Refills:*0 
4.  Torsemide 10 mg PO DAILY 
RX *torsemide 10 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
5.  Omeprazole 40 mg PO DAILY 
RX *omeprazole 40 mg 1 capsule(s) by mouth once a day Disp #*30 
Capsule Refills:*0 
6.  Aspirin 81 mg PO DAILY  
7.  Atorvastatin 80 mg PO QPM  
8.  Tacrolimus 0.1 % topical DAILY:PRN in both eyes as needed  
9.  Warfarin 5 mg PO DAILY16  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
# Severe aortic stenosis s/p TAVR
# Acute on chronic heart failure with reduced ejection fraction
# Permanent atrial fibrillation

Secondary diagnosis
# Macrocytic anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr ___,

It was a pleasure taking care of you at ___ 
___. 

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital because you felt dizzy and 
lost consciousness on several occasions.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- You were found to have a severely narrowed aortic valve.
- You had a procedure to replace your narrow aortic valve.
- Your symptoms improved and you were discharged.

WHAT SHOULD I DO WHEN I GO HOME?
- You should continue to take your medications as prescribed. 
- You should attend the appointments listed below. 
- Weigh yourself every morning, call your doctor, or the 
Heartline at ___ if your weight goes up more than 3 
lbs.  
- Seek medical attention if you have new or concerning symptoms 
or you develop swelling in your legs, abdominal distention, or 
shortness of breath at night.  
- Your discharge weight: 79.2 kg - 174.6 lb. You should use this 
as your baseline after you leave the hospital.  

We wish you the best!
Your ___ Care Team 

 
Followup Instructions:
___